* ============================================================
* Clamped-inductive double-pulse test (DPT) -- PFC boost switch
* DUT: IPW65R045C7_L0  (Infineon CoolMOS C7 vendor model, Level-0)
* Bench: bus 400 V (soft-ramped 0->400 over 1 us), freewheel SiC diode,
*        gate 0->12 V, external 9.7 ohm turn-on / 5.3 ohm turn-off
* Events: Eon at ~11.95 A (pulse-2 rise), Eoff at ~15.01 A (pulse-2 fall)
* ============================================================
* Vendor Level-0 model.
.param TEMP=25
.temp 25
.include "../models/infineon_c7_650v_spice_ngspice.lib"
.include "../models/infineon_coolsic_g5_650v_ngspice.lib"

Vbus  bus 0 PWL(0 0 1u 400 30u 400)
Cbus  bus 0 100u
Lboost bus sw 180u
Vsense sw drain 0
Xdut drain gate 0 IPW65R045C7_L0

Xfw sw bus dtc dtj IDH16G65C5_L3
Vdtc dtc 0 25
Vdtj dtj 0 25

Vdrive drive 0 PWL(0 0 1n 0 2002n 0 2003n 12 7319n 12 7320n 0 9384n 0 9385n 12 10751n 12 10752n 0 13u 0)
Rg gate drive R={5.3+4.4*u(V(drive)-6)}

.options reltol=1e-4 abstol=1e-9 vntol=1e-5
.tran 1e-10 13u 0 1e-9

.control
run
let pv = v(drain)*i(vsense)
meas tran eon  integ pv from=9.383u  to=9.565u
meas tran eoff integ pv from=10.749u to=10.931u
meas tran iL_eon  find i(lboost) at=9.380u
meas tran iL_eoff find i(lboost) at=10.745u
meas tran iL_off1 find i(lboost) at=7.314u
meas tran vds_off find v(drain) at=9.0u
meas tran vds_on  find v(drain) at=9.5u
meas tran vg_on   find v(gate)  at=9.5u
meas tran vg_off  find v(gate)  at=8.5u
.endc
.end
